US08207168B2
A solution of 4-methoxyphenyl ethanol (15.0 g, 98.2 mmol) in 150 mL of methylene chloride was stirred at 0° C. while Dess-Martin periodinane (50 g, 1.2 eq.) was added in small portions. The ice-bath was removed and the reaction was stirred at rt for 1 h. The reaction mixture was then diluted with methylene chloride (100 mL), washed with 10% sodium thiosulfate, saturated NaHCO3 solution, water, saturated NaCl solution, and dried over Na2SO4. The product was purified using silica gel chromatography (100% hexanes to 20% EtOAC/hexanes) to afford 5.3 g (34%) of 4-methoxyphenyl acetaldehyde.

reactant | 4-methoxyphenyl ethanol | 98.2 mmol, 15.0 g | COC1=CC=C(C=C1)C(C)O | C9H12O2
reactant | Dess-Martin periodinane | 50 g, 1.2 eq. | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxyphenyl acetaldehyde | 5.3 g, 34% | COC1=CC=C(C=C1)CC=O | C9H10O2
